### PR TITLE
fix: rename theorems on `String.csize`

### PR DESCRIPTION
**Pull request by chabulhwi**
Zulip discussion: https://leanprover.zulipchat.com/#narrow/stream/348111-std4/topic/.60Char.2Ecsize_pos.60.20and.20.60String.2Ecsize_pos.60.20are.20the.20same

### CODE REVIEW

File: Std/Data/Char.lean [hunk 1]
```diff
@@ -6,16 +6,16 @@ Authors: Jannis Limperg
...
+  simp only [csize, Char.utf8Size]
   repeat (first | split | (solve | simp))
 
-theorem csize_pos (c) : 0 < String.csize c := by
+theorem csize_pos (c) : 0 < csize c := by
   rcases csize_eq c with _|_|_|_ <;> simp_all
 
-theorem csize_le_4 (c) : String.csize c ≤ 4 := by
+theorem csize_le_4 (c) : csize c ≤ 4 := by
   rcases csize_eq c with _|_|_|_ <;> simp_all
```
Comment (digama0) [inline Std/Data/Char.lean:21]:
```suggestion
  rcases csize_eq c with _|_|_|_ <;> simp_all
  
end String
```
so that other theorems in this file aren't accidentally added to the wrong namespace. (Alternatively, move the theorems to Data.String.)
